US05442119
In a dry sealable Schlenk flask under an argon atmosphere 0.0592 g (0.099 mmol) (S,S)-ethylene-1,2-bis(η5 -4,5,6,7-tetrahydro- 1-indenyl)titanium (S)-1,1'-binaphth-2,2'-diolate was dissolved in THF (10 mL). The vessel was degassed by exposure to vacuum (2 x ~10 sec), put under an atmosphere of hydrogen and subsequently cooled to 0° C. in an ice water bath. After equilibration, a solution of n-butyllithium (0.122 mL, 1.58M in hexanes, 0.193 mmol, 1.95 equiv) was added and the mixture was allowed to stir for 10 min. Phenylsilane (0.03 1 mL, 0.243 mmol, 2.5 equiv) and 0.378 g (2.19 mmol, 22 equiv ) 6-methoxy-1-methyl-3,4-dihydronaphthalene were then added. The flask was sealed and the solution moved into a dry box and transferred to a Parr® high pressure reaction vessel containing a magnetic stir bar. The pressure vessel was sealed and moved to a fume hood where it was charged to 1800 psig with hydrogen and placed in an oil bath at 68° C. The reaction mixture was allowed to stir for 132 h. The vessel was cooled to room temperature, vented and opened to air. The reaction mixture was worked up by partitioning between diethyl ether hexane (1/4) and water and separating the layers. The organic extract was concentrated and chromatographed on 50 mL silica gel to yield 0.268 g (1.54 mmol, 70%) of 6-methoxy-1-methyl-1,2,3,4-tetrahydronaphthalene with an ee of 94.7%.

reactant | n-butyllithium | 0.193 mmol, 1.58M, 0.122 mL, 1.95 equiv | C(CCC)[Li]
reactant | Phenylsilane | 0.243 mmol, 1 mL, 2.5 equiv | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | 6-methoxy-1-methyl-3,4-dihydronaphthalene | 2.19 mmol, 0.378 g, 22 equiv | COC=1C=C2CCC=C(C2=CC1)C | C12H14O
reactant | hydrogen | [H][H] | H2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-methoxy-1-methyl-1,2,3,4-tetrahydronaphthalene | 1.54 mmol, 0.268 g, 70% | COC=1C=C2CCCC(C2=CC1)C | C12H16O
